US07834002B2
To a 50 mL round-bottom flask, 484 mg of 2-bromopyridine-6-methanol, 510 mg of 1-(4-methylpiperazin-1-yl)pent-4-yn-1-one, 20 mg of BHT, 162 mg of copper(I) iodide, 118 mg of tetrakis(triphenylphosphine)palladium (0), 375 mg of t-butylamine and 7.5 mL of DMF were added, and the mixture was stirred under argon atmosphere at 80° C. for 6 hours. The DMF was removed under reduced pressure, then saturated aqueous sodium bicarbonate was added thereto, and the mixture was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was removed. The residue was purified by chromatography on silica gel (methylene chloride-methanol-triethylamine=600:20:1) to give 540 mg of 5-(6-hydroxymethylpyridin-2-yl)-1-(4-methylpiperazin-1-yl)pent-4-yn-1-one as a yellow oil.

reactant | 2-bromopyridine-6-methanol | 484 mg | BrC1=NC(=CC=C1)CO | C6H6BrNO
reactant | 1-(4-methylpiperazin-1-yl)pent-4-yn-1-one | 510 mg | CN1CCN(CC1)C(CCC#C)=O | C10H16N2O
reactant | t-butylamine | 375 mg | C(C)(C)(C)N | C4H11N
catalyst | copper(I) iodide | 162 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 118 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
product | 5-(6-hydroxymethylpyridin-2-yl)-1-(4-methylpiperazin-1-yl)pent-4-yn-1-one | 540 mg | OCC1=CC=CC(=N1)C#CCCC(=O)N1CCN(CC1)C | C16H21N3O2
